Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
amoxicillin
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP with sphincterotomy

 
History of Present Illness:
This is a ___ year-old male with hx of HTN who was
transferred from ___ for ERCP after being diagnosed
with cholangitis. His symptoms initially started in ___
with RUQ pain that lasted couple hours and was followed by few
days of dark urine that eventually cleared. On last ___, 
he
developed RUQ again that similarly lasted one day and resolved.
He also had dark urine that has persisted until today. This time
pain was with fever, chills and nausea without vomiting. He lost
appetite and has not eaten since ___, however he does not
think that food exacerbates pain. Called his PCP ___, who
recommended he goes to Went to ___ ED. 

In the ___ ER T 97.9, BP 115/57, HR 62, RR 16, O2 sat 99RA. 

WBC 12.4, N 64, Hb 15.2, plr 232, BMP wnl, ALT 163, AST 54, AP
120, Tbili 3, Dbili 1.8, Mg 2.2, lactate 1.4

CT AP w/ con showed gallbladder containg stones and is distended
with possible trace pericholecystic fluid. In the appropriate
clinical setting this may represent acute cholecystitis. There 
is
no evidence of intrahepatic  or extrahepatic biliary dilatation. 

Additionally, there is focal gallbladder wall thickening, which
is nonspecific. Diverticulosis without evidence of
diverticulitis.

He was given NS at 125/h, zosyn 4.5g and admitted with
presumptive diagnosis of ascending cholangitis. 

 
Past Medical History:
Nephrolithasis 
 
Social History:
___
Family History:
No family history of premature CAD, SCD or
cardiomypathies
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS:  Afebrile and vital signs stable. T 97.8, BP 121/71, HR 60,
RR 12, O2 sat 96 RA.

___ Appearance: pleasant, comfortable, no acute distress
Eyes: PERLL, EOMI, no conjuctival injection, anicteric
ENT: no sinus tenderness, MMM, oropharynx without exudate or
lesions, no supraclavicular or cervical lymphadenopathy, no JVD,
no carotid bruits, no thyromegaly or palpable thyroid nodules
Respiratory: CTA b/l with good air movement throughout
Cardiovascular: RR, S1 and S2 wnl, no murmurs, rubs or gallops
Gastrointestinal: RUQ tenderness and guarding, positive ___
sign, no rebound, +b/s, soft
Extremities: no cyanosis, clubbing or edema
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert, oriented to self, time, date, reason for
hospitalization.  Cn II-XII intact.  ___ strength throughout.  
No
sensory deficits to light touch appreciated.  
Psychiatric: pleasant, appropriate affect
GU: no catheter in place

DISCHARGE EXAM essentially unchanged except abdominal tenderness 
is now improved.
 
Pertinent Results:
ADMISSION LABS:
___ 07:00PM BLOOD WBC-12.4* RBC-4.91 Hgb-15.2 Hct-44.8 
MCV-91 MCH-31.0 MCHC-33.9 RDW-14.1 RDWSD-47.8* Plt ___
___ 07:00PM BLOOD Neuts-64.7 ___ Monos-9.0 Eos-1.0 
Baso-0.3 Im ___ AbsNeut-7.99* AbsLymp-3.04 AbsMono-1.11* 
AbsEos-0.12 AbsBaso-0.04
___ 07:00PM BLOOD Glucose-96 UreaN-20 Creat-1.1 Na-141 
K-3.8 Cl-105 HCO3-21* AnGap-19
___ 07:00PM BLOOD ALT-163* AST-54* LD(LDH)-176 AlkPhos-120 
TotBili-3.0* DirBili-1.8* IndBili-1.2
___ 07:00PM BLOOD Albumin-4.3 Calcium-8.9 Phos-3.2 Mg-2.2

DISCHARGE LABS:
___ 06:25AM BLOOD WBC-10.0 RBC-4.33* Hgb-13.6* Hct-40.0 
MCV-92 MCH-31.4 MCHC-34.0 RDW-14.0 RDWSD-47.3* Plt ___
___ 06:25AM BLOOD Glucose-73 UreaN-14 Creat-1.0 Na-142 
K-3.7 Cl-106 HCO3-24 AnGap-16
___ 06:25AM BLOOD ALT-98* AST-34 AlkPhos-94 TotBili-1.8*
___ 06:25AM BLOOD Calcium-8.5 Mg-2.0

MICRO:
___ 7:00 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

CT A/P ___:
  
1. Moderately distended gallbladder with gallstones and possible 
trace 
pericholecystic fluid.  In the appropriate clinical setting, 
this may 
represent acute cholecystitis. 
2. Additionally, there is focal gallbladder wall thickening 
medially, which is 
nonspecific, but neoplasm cannot be completely excluded.  A 
repeat right upper 
quadrant ultrasound or MRCP with hepatobiliary agent can be 
obtained for 
further evaluation of acute cholecystitis and focal medial 
gallbladder wall 
thickening. 
3. No biliary dilatation. 
4. Diverticulosis without evidence of diverticulitis. 
5. Prostatomegaly. 
  
RECOMMENDATION(S):  A repeat right upper quadrant ultrasound can 
be obtained 
for further evaluation. Alternatively, MRCP with hepatobiliary 
agent (Eovist) 
can also be performed. 

ERCP ___:
Impression: There was a filling defect that appeared like sludge 
in the common bile duct. 
Many stones that were seen at the galbladder. The cystic duct 
was patent.
A sphincterotomy was performed.
Sludge and stone fragments extracted successfully using a 
balloon. (sphincterotomy, stone extraction)
Otherwise normal ercp to third part of the duodenum 

Recommendations: Watch for complications - bleeding , 
perforation, pancreatitis.
NPO today and then advance diet per primary team's instructions.
Cholecystectomy as already scheduled. 

 
Brief Hospital Course:
# Cholangitis/cholecystitis: Pt presented with abdominal pain, 
n/v, and reported fevers at home.  Found to have elevated LFT's 
and leukocytosis to 12.4 on admission.  CT a/p showed 
gallbladder distention, wall thickening and pericholecystic 
fluid, in combination with elevated LFT's/bili, was c/f 
ascending cholangitis.  ___ underwent ERCP with spincterotomy on 
___ with stone and sludge removal from the CBD.  Pt 
tolerated this procedure well and plan is for him to be 
discharged to get his scheduled CCY at ___ 
on ___.  He will continue 1 day of Cipro/Flagyl for presumed 
cholecystitis (given fever and leukocytosis on admission) until 
the surgery.

# Rash: Pt developed popular rash on face and head on AM of 
___ after receiving 1 dose of Zosyn (has listed allergy to 
amoxicillin).  No e/o airway compromise.  Pt offered Benadryl 
for itching but declined.

# HTN: Pt continued on home losartan.

Billing: Greater than 30 minutes spent on discharge counseling 
and coordination of care.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth twice 
per day Disp #*2 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO TID 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth three 
times per day Disp #*3 Tablet Refills:*0 
3.  Losartan Potassium 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cholangitis
Cholecystitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came in with abdominal pain and fevers.  We found that you 
had an infection of your bile duct and we did an endoscopic 
procedure to remove some stones from your bile duct.  You 
tolerated this procedure well.

We are discharging you with antibiotics to take until you get 
your scheduled surgery tomorrow at ___.  We are 
sending you home with some antibiotics to take until you get 
your surgery as you were having fevers and an elevated white 
blood cell count.
 
Followup Instructions:
___